US08912188B2
To a solution of methyl 3-(2-methylpiperidin-1-yl)-2-(trifluoromethylsulfonyloxy)quinoxaline-6-carboxylate (880 mg, crude) in dioxane (25 ml) was added Pd(PPh3)4 (100 mg, 0.09 mmol), 4-fluorophenylboronic acid (485 mg, 3.47 mmol), K3PO4 (735 mg, 3.46 mmol) and water (3 ml). The resulting solution was stirred for 1 hour at 90° C. under an inert atmosphere of nitrogen, and then concentrated in vacuo to give a residue, which was purified via silica gel column chromatography (1%-10% ethyl acetate in petroleum ether) to afford methyl 2-(4-fluorophenyl)-3-(2-methylpiperidin-1-yl)quinoxaline-6-carboxylate as a yellow solid (330 mg).

reactant | methyl 3-(2-methylpiperidin-1-yl)-2-(trifluoromethylsulfonyloxy)quinoxaline-6-carboxylate | 880 mg | CC1N(CCCC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)OS(=O)(=O)C(F)(F)F | C17H18F3N3O5S
reactant | 4-fluorophenylboronic acid | 3.47 mmol, 485 mg | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | K3PO4 | 3.46 mmol, 735 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | water | 3 ml | O | H2O
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.09 mmol, 100 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 2-(4-fluorophenyl)-3-(2-methylpiperidin-1-yl)quinoxaline-6-carboxylate | 330 mg | FC1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1N1C(CCCC1)C)C(=O)OC | C22H22FN3O2
